Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
morphine / Lipitor
 
Attending: ___
 
Chief Complaint:
1. Ischemic bowel.
2. End ileostomy.

 
Major Surgical or Invasive Procedure:
___ of end ileostomy with ileocolic anastomosis.

 
History of Present Illness:
The patient is a ___ male who had presented in ___ with ischemic bowel requiring a right colectomy with end 
ileostomy.  This was in the setting of having had a segmental 
right colectomy in the remote past before this.  He has been 
doing well with his ileostomy; but wished that it be taken down. 

 
Past Medical History:
PMH: CAD, CHF, afib on coum, HL, HTN
PSH: appy, GB, R colectomy with colostomy, takedown 

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAM: ___
VS:  99.9   140/60   100  34  2L 99
GENERAL: NAD. Comfortable  
Eyes: Anicteric without conjunctival injection  
ENT: MMM. No oral lesions  
NECK: supple.  
___: irreg irreg, no m/r/g  
LUNGS: rhonchorus
ABDOMEN: soft, nontender, large panus, no capit, ex-lap site 
with
staples well approximated and clean, dry, no rebound or 
guarding.
Rectal with brown stool.
SKIN: Warm. Dry.  
NEURO: [x] Oriented x1 [x] Fluent speech  
Psych: [x] Alert [x] Calm  

PHYSICAL EXAM:Upon discharge
VS:  
GENERAL: NAD. Comfortable  
Eyes: Anicteric without conjunctival injection  
ENT: MMM. No oral lesions  
NECK: supple.  
___: irreg irreg, no m/r/g  
LUNGS: rhonchorus
ABDOMEN: soft, nontender, large panus, no capit, ex-lap site 
with
staples well approximated and clean, dry, no rebound or 
guarding.
Rectal with brown stool.
SKIN: Warm. Dry.  
NEURO: [x] Oriented x1 [x] Fluent speech  
Psych: [x] Alert [x] Calm  

 
Pertinent Results:
___ 11:35AM   GLUCOSE-130* UREA N-21* CREAT-1.2 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-24 ANION GAP-14
___ 11:35AM   estGFR-Using this
___ 11:35AM   CALCIUM-9.1 PHOSPHATE-1.9*# MAGNESIUM-1.7
___ 11:35AM   WBC-10.0 RBC-4.25*# HGB-13.8*# HCT-42.5# 
MCV-100* MCH-32.5* MCHC-32.4 RDW-14.9
___ 11:35AM   PLT COUNT-185#

Radiology Report CTA ABD & PELVIS Study Date of ___  
IMPRESSION:  
1. Expected post-surgical changes around ileostomy takedown 
site. Hyperdense 
intra-abdominal fluid may be operative irrigation solution. 
2. Abdominal aorta and its major branches are patent. 
3. Cardiomegaly 

 
Brief Hospital Course:
The patient was was admitted by the Acute Care Service for a 
takedown of his end ileostomy with ileocolic anastomosis ___. 
He tolerated the surgery and was transferred to the floor for 
monitoring and IV antibiotics. 
 
On ___ there was a concern that the patient aspirated, a chest 
XRAY was done. See report for details. The patient was also seen 
by speech and swallow. 

On ___ patient noted to have more than 2L of dark coffee ground 
output from his NGT in the setting of hematocrit drop to 25 
(preop 42). EGD was done that revealed severe esophagitis with a 
1cm ulcer at the pylorus as well as small ulcers in the
proximal duodenum without any areas of active bleeding. Pt was 
transferred to the TSICU for close monitoring. He was started on 
a PPI gtt. His Hct ___ and he was given 2 units of RBC. On 
___ and ECHO and CTA were which were both normal.

On ___ Transferred back to floor, ___ triggered for nursing 
concern, consistent sangunious drainage at abdominal site with 
wound dehiscence, wound vac placed ___. Patient was placed on 
tele. A chest XRAY was done which showed esophageal drainage 
tube passes into the nondistended stomach and out of view. See 
CXY report for more details. 

On ___ the foley and nasogastric tube were discontinued. The 
patient was triggered for wound separation, debrided and vac'd.

On ___ the patient was advanced to a regular diet which was 
tolerated. Patient had another vac change on ___ and there were 
no issues with the vac. The patient ambulated and was seen by 
physical therapy. His pain controlled and his antibiotics were 
discontinued on ___.  

His vac is due to be changed tomorrow ___ and the staples are 
to be removed tomorrow as well. 

 
Medications on Admission:
crestor 20, lasix 40, lisinopril 40, KCl 20 meq Daily, MVI, 
norvasc, coum 5qpm ___ Coumadin* 2.5qpm Th, iron 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN when pt 
wishes 
3. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB/wheeze  
4. Pantoprazole 40 mg PO Q24H 
5. Heparin 5000 UNIT SC TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ischemic bowel.
End ileostomy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Acute Care Service on ___. You had a 
surgery with Dr. ___ to takedown of end ileostomy with 
ileocolic
anastomosis. You tolerated the surgery well. You have a wound 
vac applied which needs to be changed every 3 days. You have 
been monitored on the floor and now are feeling better. You are 
ready to be discharged to a rehab facility. Please adhere to the 
following instructions for discharge. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___